US09029545B2
N-{2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide
Alternatively, to a stirred solution of 2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno-[2,3-b]pyridin-4-amine (460 mg, 1.317 mmol) (Description 17) in DMF (10 mL) was added sodium tert-butoxide (316 mg, 3.29 mmol) and 3-chlorobenzenesulfonyl chloride (0.371 mL, 2.63 mmol). The reaction mixture was stirred at RT under nitrogen for 1 h. The reaction mixture was then diluted with ethyl acetate (25 mL) and NaHCO3 (50 mL). The organic layer was then separated and the aqueous layer re-extracted with ethyl acetate (2×20 mL). The combined organic layer was dried over Na2SO4 and the solvent concentrated in vacuo. Purification by chromatography on silica gel, eluting with a gradient of 0-50% ethyl acetate in cyclohexane, afforded the title compound (447 mg).

reactant | 2-bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno-[2,3-b]pyridin-4-amine | 1.317 mmol, 460 mg | BrC1=C(C2=C(N=C(C=C2N)C)S1)C1=CC(=CC=C1)OC | C15H13BrN2OS
reactant | sodium tert-butoxide | 3.29 mmol, 316 mg | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 2.63 mmol, 0.371 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
solvent | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
product | N-{2-Bromo-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridin-4-yl}-3-chlorobenzenesulfonamide | 447 mg | BrC1=C(C=2C(=NC(=CC2NS(=O)(=O)C2=CC(=CC=C2)Cl)C)S1)C1=CC(=CC=C1)OC | C21H16BrClN2O3S2
